US06958383B2
66.9 g of 1,3-dichloroacetone chloride are introduced into a three-necked flask containing 800 cm3 of diethyl ether. 28 cm3 of pyridine are added dropwise and the mixture is kept stirring overnight. The precipitate obtained is filtered, washed with twice 100 cm3 of diethyl ether and then dried at 40° C. under 90 Pa to give 29.2 g of 1-(3-chloro-2-oxopropyl)-pyridinium chloride in the form of a cream-coloured solid melting at 92° C. and which is used as it is.

reactant | 1,3-dichloroacetone chloride | 66.9 g | [Cl-].ClCC(=O)CCl
reactant | diethyl ether | 800 cm3 | C(C)OCC | C4H10O
reactant | pyridine | 28 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-(3-chloro-2-oxopropyl)-pyridinium chloride | 29.2 g | [Cl-].ClCC(C[N+]1=CC=CC=C1)=O | InChI=1S/C8H9ClNO.ClH/c9-6-8(11)7-10-4-2-1-3-5-10;/h1-5H,6-7H2;1H/q+1;/p-1
